US09422240B2
Ethyl N-(5-phenylpentyl)-β-alaninate
To a solution of β-alanine ethyl hydrochloride (2.00 g) in N,N-dimethylformamide (65.0 mL), sodium hydride (60% dispersion in mineral oil, 1.15 g) was added and the mixture was stirred at room temperature for an hour. After adding (5-bromopentyl)benzene (2.52 mL), the mixture was stirred at 80° C. for 4 hours. After being cooled to room temperature, the reaction mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was separated off and dried over anhydrous magnesium sulfate; after removing the desiccant by filtration, the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:0-85:15) to give the titled compound as a pale yellow oil (480 mg).

reactant | β-alanine ethyl hydrochloride | 2.00 g | C(C)Cl.NCCC(=O)O
reactant | sodium hydride | 1.15 g | [H-].[Na+]
reactant | (5-bromopentyl)benzene | 2.52 mL | BrCCCCCC1=CC=CC=C1 | C11H15Br
solvent | N,N-dimethylformamide | 65.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl N-(5-phenylpentyl)-β-alaninate | 480 mg | C1(=CC=CC=C1)CCCCCNCCC(=O)OCC | C16H25NO2
